US07338973B2
1,1,2,2,3,3,4,4,4-nonafluoro-butane-1-sulfonic acid 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl ester
To a solution of 8-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol (180 mg, 0.711 mmol) in CH2Cl2 (20 mL), Et3N (129 μL, 0.924 mmol) was added dropwise followed by CF3(CF2)3SO2F (153 μL, 0.853 mmol) at 0° C. The reaction mixture was slowly warmed up to 25° C. over 2 hours. Then CH2Cl2, water, and saturated aqueous NaHCO3 solution were added to the mixture. The aqueous layer was extracted with CH2Cl2 and the organic layers were washed with brine, dried, and concentrated. Flash chromatography purification (12% EtOAc/Hexane) was used to yield the title as a white solid.

reactant | 8-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-ol | 0.711 mmol, 180 mg | CC1(CC=2C=3CSC4=C(C3NC2C=C1)C=CC=C4)O | C16H15NOS
reactant | Et3N | 0.924 mmol, 129 μL | CCN(CC)CC | C6H15N
reactant | CF3(CF2)3SO2F | 0.853 mmol, 153 μL | C(F)(F)(F)C(F)(F)C(F)(F)C(F)(F)S(=O)(=O)F | C4F10O2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 1,1,2,2,3,3,4,4,4-nonafluoro-butane-1-sulfonic acid 11-methyl-6,11-dihydro-5-thia-11-aza-benzo[a]fluoren-8-yl ester | CN1C2=CC=C(C=C2C=2CSC3=C(C12)C=CC=C3)OS(=O)(=O)C(C(C(C(F)(F)F)(F)F)(F)F)(F)F | C20H12F9NO3S2
